US03937715
1580 g of 2-(1',1'-difluoro-2',2'-dichloro-ethyl)-5-acetamido-1,3,4-thiadiazole were mixed with 5700 ml of concentrated H2SO4 and heated to 120°-130°C for 2 hours with ageitation. After cooling, the sulfuric acid containing solution was poured into icewater while stirring and neutralized with 30 % sodium hydroxide solution. The precipitate formed was separated and washed with water. After drying, 1320 g (98.5 %) of 2-(1',1'-difluoro-2',2'-dichloro-ethyl)-5-amino-1,3,4-thiadiazol having a melting point of 181°-182°C were obtained.

reactant | 2-(1',1'-difluoro-2',2'-dichloro-ethyl)-5-acetamido-1,3,4-thiadiazole | 1580 g | FC(C(Cl)Cl)(F)C=1SC(=NN1)NC(C)=O | C6H5Cl2F2N3OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | H2SO4 | 5700 ml | OS(=O)(=O)O | H2O4S
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(1',1'-difluoro-2',2'-dichloro-ethyl)-5-amino-1,3,4-thiadiazol | 1320 g, 98.5 % | FC(C(Cl)Cl)(F)C=1SC(=NN1)N | C4H3Cl2F2N3S
